US05536722
2-Chloro-4,6-bis (2-[3,4-dimethoxyphenyl]ethylamino)-1,3,5-triazine
Cyanuric chloride (2.0 g, 10.85 mM) was dispersed in dioxane (80 mL) with stirring and 2-(3,4-dimethoxyphenyl)ethylamine (3.93 g, 21.68 mM) was introduced dropwise over 2 minutes. Sodium hydroxide (1N, 24 mL) was added dropwise over 5 minutes then the whole was brought to reflux for 18 hours. Cooling to ambient temperature caused a white solid to precipitate. Diethyl ether (100 mL) was introduced to fully precipitate the product which was filtered, rinsed with diethyl ether and dried. 5.05 g, (98%), mp=186°-186.5° C.

reactant | Cyanuric chloride | 10.85 mM, 2.0 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 2-(3,4-dimethoxyphenyl)ethylamine | 21.68 mM, 3.93 g | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | Sodium hydroxide | 1N, 24 mL | [OH-].[Na+]
reactant | dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | 2-Chloro-4,6-bis (2-[3,4-dimethoxyphenyl]ethylamino)-1,3,5-triazine | ClC1=NC(=NC(=N1)NCCC1=CC(=C(C=C1)OC)OC)NCCC1=CC(=C(C=C1)OC)OC | C23H28ClN5O4
